US09326987B2
N-{2-Chloro-5-[1-[(4-methylphenyl)sulfonyl]-4-(1H-tetrazol-5-yl)-1H-indazol-6-yl]-3-pyridinyl}methanesulfonamide
N-(2-Chloro-5-{4-cyano-1-[(4-methylphenyl)sulfonyl]-1H-indazol-6-yl}-3-pyridinyl)methanesulfonamide (1.6 g, 3.19 mmol), trimethylsilyl azide (0.734 g, 6.37 mmol) and dibutyl(oxo)stannane (0.079 g, 0.319 mmol) were placed in toluene (30 ml) and the mixture heated at 100° C. for 16 h. The mixture was stirred at this temperature over the weekend. The mixture was cooled to room temperature and the solvent removed in vacuo. The residue was adsorbed onto florisil and chromatographed on silica (100 g cartridge) eluting with 0-100% ethyl acetate in cyclohexane followed by 0-20% methanol to give the title compound (1.3 g).

reactant | N-(2-Chloro-5-{4-cyano-1-[(4-methylphenyl)sulfonyl]-1H-indazol-6-yl}-3-pyridinyl)methanesulfonamide | 3.19 mmol, 1.6 g | ClC1=NC=C(C=C1NS(=O)(=O)C)C1=CC(=C2C=NN(C2=C1)S(=O)(=O)C1=CC=C(C=C1)C)C#N | C21H16ClN5O4S2
reactant | trimethylsilyl azide | 6.37 mmol, 0.734 g | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | dibutyl(oxo)stannane | 0.319 mmol, 0.079 g | C(CCC)[Sn](=O)CCCC
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | N-{2-Chloro-5-[1-[(4-methylphenyl)sulfonyl]-4-(1H-tetrazol-5-yl)-1H-indazol-6-yl]-3-pyridinyl}methanesulfonamide | 1.3 g | ClC1=NC=C(C=C1NS(=O)(=O)C)C1=CC(=C2C=NN(C2=C1)S(=O)(=O)C1=CC=C(C=C1)C)C1=NN=NN1 | C21H17ClN8O4S2
